* Common Emitter Amplifier

******** PARAMETERS ********
.param RC=3000
.param RE=470
.param VCC=12

******** SUPPLY ********
V1 vcc 0 DC {VCC}

******** INPUT ********
Vin in 0 DC 0 AC 1

******** BIAS ********
R1 vcc base 100000
R2 vcc base 20000

******** AMPLIFIER ********
Rc vcc collector 4952
Re emitter 0 439

Cin in base 10u
Ce emitter 0 100u

******** TRANSISTOR ********
Q1 collector base emitter QNPN
.model QNPN NPN (BF=150 VAF=100 IS=1e-15)

******** ANALYSIS ********
.ac dec 200 10 100Meg

******** EXPORT DATA ********
.control
run
set filetype=ascii
wrdata ngspice_simulation_output.txt frequency v(collector)
.endc

.end

